US04180395
N-[(3,5-Dichloro-6-fluoro-2-pyridyloxy)-acetyl]glycine
A solution was prepared by admixing 2.93 grams (0.039 mole) of glycine with 4.67 grams (0.117 mole) of sodium hydroxide in 117 milliliters of water. To this solution was added 10.0 grams of (3,5-dichloro-6-fluoro-2-pyridyloxy)acetyl chloride in 30 milliliters of benzene. The mixture was allowed to stand at a temperature of ~2°-5° C. for about 10 minutes and the mixture was warmed to room temperature and stirred for about 30 minutes. The reaction mixture was diluted with additional benzene and the aqueous layer which formed was removed and acidified. The solid which precipated was removed by filtration, dried and recrystallized from 50 percent ethanol. The N-[(3,5-dichloro-6-fluoro-2-pyridyloxy)acetyl]glycine product was recovered in a yield of 5.0 grams and melted at 155°-157° C. and upon analysis was found to have carbon, hydrogen, chlorine and nitrogen contents of 35.7, 2.1, 24.2 and 8.7 percent, respectively as compared with the theoretical contents of 36.5, 2.4, 23.9 and 9.4 percent, respectively, calculated for the above named compound.

reactant | glycine | 0.039 mole, 2.93 grams | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 0.117 mole, 4.67 grams | [OH-].[Na+]
reactant | (3,5-dichloro-6-fluoro-2-pyridyloxy)acetyl chloride | 10.0 grams | ClC=1C(=NC(=C(C1)Cl)F)OCC(=O)Cl | C7H3Cl3FNO2
solvent | water | 117 milliliters | O | H2O
solvent | benzene | 30 milliliters | C1=CC=CC=C1 | C6H6
product | N-[(3,5-Dichloro-6-fluoro-2-pyridyloxy)-acetyl]glycine | ClC=1C(=NC(=C(C1)Cl)F)OCC(=O)NCC(=O)O | C9H7Cl2FN2O4
